US08304443B2
Tert-butyl 6-(benzyloxy)-3-oxo-2,3-dihydroindazole-1-carboxylate
6-(Benzyloxy)-1,2-dihydroindazol-3-one (1.9209 g) which can be prepared according to the method described in Reference example 31, etc. was suspended in CH2Cl2 (80 mL; manufactured by Wako Pure Chemical Industries, Ltd.), added with triethylamine (2.78 mL; manufactured by Kokusan Chemical Co., Ltd.), Boc2O (4.6 mL; manufactured by Wako Pure Chemical Industries, Ltd.) and DMAP (0.4947 g; manufactured by Wako Pure Chemical Industries, Ltd.), and stirred overnight at room temperature after the replacement with nitrogen. The reaction solution was washed twice with 1 mol/L-hydrochloric acid and once with water, and the organic layer was dried over magnesium sulfate. The solvent was removed under reduced pressure. The residue was dissolved in methanol (64 mL; manufactured by Wako Pure Chemical Industries, Ltd.) and added with 7 mol/L-ammonia-methanol solution (16 mL; manufactured by Sigma-Aldrich Co.), followed by stirring at room temperature for 4 hours. The reaction solution was concentrated under reduced pressure, ethanol was added to the residue and then resulting precipitate was filtered to obtain the title compound (1.5822 g).

reactant | 6-(Benzyloxy)-1,2-dihydroindazol-3-one | 1.9209 g | C(C1=CC=CC=C1)OC1=CC=C2C(NNC2=C1)=O | C14H12N2O2
reactant | triethylamine | 2.78 mL | C(C)N(CC)CC | C6H15N
reactant | Boc2O | 4.6 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.4947 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | Tert-butyl 6-(benzyloxy)-3-oxo-2,3-dihydroindazole-1-carboxylate | 1.5822 g | C(C1=CC=CC=C1)OC1=CC=C2C(NN(C2=C1)C(=O)OC(C)(C)C)=O | C19H20N2O4
